US08530673B2
Synthesis of 6,9-dihydro-6,9-ethanoanthra[2,3-d] [1,3]dithiol-2-thione: 1-7
In pyridine (30 mL), the 5,10-dihydroxy-5,10-dihydro-6,9-dihydro-6,9-ethanoanthra[2,3-d] [1,3]dithiol-2-thione: 1-6 (1.03 g) was dissolved, and cooled to 0° C. in an ice bath. Thereafter, phosphonyl chloride (0.81 mL) was added in the cooled mixture, and stirred for 2 hours. After completion of the reaction, the mixture was poured into iced water, and then the obtained precipitate was recovered through filtration.

reactant | water | O | H2O
reactant | 5,10-dihydroxy-5,10-dihydro-6,9-dihydro-6,9-ethanoanthra[2,3-d] [1,3]dithiol-2-thione | OC1C2=CC3=C(SC(S3)=S)C=C2C(C=2C3C=CC(C12)CC3)O | C17H14O2S3
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 6,9-dihydro-6,9-ethanoanthra[2,3-d] [1,3]dithiol-2-thione | S1C(SC2=C1C=C1C=C3C4C=CC(C3=CC1=C2)CC4)=S | C17H12S3
